US04945158
1-Deoxy-1-(diethoxyphosphinyl)-3,4,6-tris-O-(phenylmethyl)-D-fructofuranose
To a stirred solution of 15.6 ml of 1.6M n-butyllithium in hexane and 20 ml of tetrahydrofuran at -78° C., was added a solution of 3.80 g of diethyl methylphosphonate in 10 ml of tetrahydrofuran during 10 minutes. After 15 minutes at -78° C., a solution of 4.18 g of 2,3,5-tris-O-(phenylmethyl)-D-arabinonic acid, qamma-lactone [Y. Rabinsohn & H. G. Fletcher, J. Org. Chem., 32, 3452-3457 (1967)] in 15 ml of tetrahydrofuran was added during 5 minutes. After 30 minutes at -78° C. the solution was warmed to 0° C. during 5 minutes, stirred at 0° C. for 2 minutes, recooled to -78° C. and quenched with 3.0 ml of glacial acetic acid. The mixture was partitioned with dichloromethane-water. The organic layer was washed successively with water, sodium bicarbonate solution, water and brine, dried and concentrated. The residue was subjected to column chromatography on silica gel (ethyl acetate-heptane) giving the desired compound as an oil, CMR δ 101.2 and 104.3 (doublets, corresponding to anomeric carbon of minor and major anomer, respectively).

reactant | n-butyllithium | 1.6M, 15.6 ml | C(CCC)[Li]
reactant | diethyl methylphosphonate | 3.80 g | CP(OCC)(OCC)=O | C5H13O3P
reactant | 2,3,5-tris-O-(phenylmethyl)-D-arabinonic acid | 4.18 g | C1(=CC=CC=C1)CO[C@H](C(=O)O)[C@H](OCC1=CC=CC=C1)[C@H](O)COCC1=CC=CC=C1 | C26H28O6
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-Deoxy-1-(diethoxyphosphinyl)-3,4,6-tris-O-(phenylmethyl)-D-fructofuranose | C(C)OP(=O)(CC1(O)[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1)OCC | C31H39O8P
